US05114968
3.6 g of powdered potassium carbonate, 1.5 g of finely powdered potassium iodide and 27 g of methyl 2-chloroethylcarbamate are added to a solution of 2.6 g of 4-(4-fluorophenoxy)phenol in 120 ml of dimethyl formamide, and the reaction mixture is heated for 15 hours to 95° C. The cooled reaction mixture is poured into ice-water and extracted repeatedly with ether. The combined ether phases are washed with water, dried over sodium sulfate, and the solvent is completely removed by distillation. After filtration over silica gel, the crude product is recrystallised from diethyl ether/hexane to give methyl 2-[4-(4-fluorophenoxy)phenoxy]-1-ethylcarbamate with a melting point of 64°-66° C.

reactant | potassium carbonate | 3.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | methyl 2-chloroethylcarbamate | 27 g | ClCCNC(OC)=O | C4H8ClNO2
reactant | 4-(4-fluorophenoxy)phenol | 2.6 g | FC1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C12H9FO2
solvent | dimethyl formamide | 120 ml | CN(C=O)C | C3H7NO
product | methyl 2-[4-(4-fluorophenoxy)phenoxy]-1-ethylcarbamate | FC1=CC=C(OC2=CC=C(OCCNC(OC)=O)C=C2)C=C1 | C16H16FNO4
